US07923450B2
d) [9-(2,5-Dichloro-phenyl)-6,7,8,9-tetrahydro-5H-cycloheptapyrimidin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared from crude ethyl 2-(2,5-dichloro-phenyl)-7-[1-dimethylamino-methylidene]-cycloheptanone (197 mg, ca. 0.61 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (169 mg, 0.45 mmol) using in analogous manner the procedure described in example 45b). Obtained as a pale-yellow solid (163 mg, 73%). MS ISP (m/e): 494.0 [(M+H)+]. mp 218-220° C.

reactant | ethyl 2-(2,5-dichloro-phenyl)-7-[1-dimethylamino-methylidene]-cycloheptanone | ca. 0.61 mmol, 197 mg | C(C)C1(C(C(CCCC1)=CN(C)C)=O)C1=C(C=CC(=C1)Cl)Cl | C18H23Cl2NO
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.45 mmol, 169 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | [9-(2,5-Dichloro-phenyl)-6,7,8,9-tetrahydro-5H-cycloheptapyrimidin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=C(C=C(C=C1)Cl)C1CCCCC=2C=NC(=NC21)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C26H25Cl2N5O
